US08030337B2
N-{2-[2-(3-Oxobutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide
A suspension of N-{2-[2-(3-hydroxybutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide (72.0 mg, 0.228 mmol), 4 Å molecular sieves (72 mg), 4-methylmorpholine N-oxide (66.8 mg, 0.570 mmol) and tetra-n-propylammonium perruthenate(VII) (8.0 mg, 0.0228 mmol) in acetonitrile (3 mL) was stirred at room temperature for 2 hr. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) and recrystallized (ethyl acetate/hexane) to give the title compound (22.2 mg, yield 31%).

reactant | N-{2-[2-(3-hydroxybutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 0.228 mmol, 72.0 mg | OC(CCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O)C | C18H24N2O3
reactant | 4-methylmorpholine N-oxide | 0.570 mmol, 66.8 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-{2-[2-(3-Oxobutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 22.2 mg, yield 31% | O=C(CCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O)C | C18H22N2O3
